US09120793B2
Methyl 2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylate
To a solution of methyl 1,6-diaminopyridin-1-ium-3-carboxylate; 2,4,6-trimethylbenzenesulfonate (6.0 g, 16.3 mmol) in 1,4-dioxane (50 mL) is added 2,6-dimethylbenzaldehyde (1.72 g, 13.00 mmol) and the reaction mixture is heated at 90° C. for 2 hours. The reaction mixture is cooled to room temperature, 1 N KOH solution (15 mL) is added, and the mixture is stirred overnight at room temperature. The reaction mixture is diluted with water (50 mL) and extracted with EtOAc (2×100 mL). The combined organic extracts are washed with water (100 mL) and saturated brine solution (100 mL), dried over sodium sulphate, filtered, and concentrated. The crude material is purified by silica gel chromatography (combiflash) eluting with 12% EtOAc in hexanes to give the title compound as a yellow liquid (0.35 g, 16%). LCMS m/z 282 (M+H)+.

reactant | methyl 1,6-diaminopyridin-1-ium-3-carboxylate | N[N+]1=CC(=CC=C1N)C(=O)OC
reactant | 2,4,6-trimethylbenzenesulfonate | 16.3 mmol, 6.0 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-]
reactant | 2,6-dimethylbenzaldehyde | 13.00 mmol, 1.72 g | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | KOH | 1 N, 15 mL | [OH-].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | Methyl 2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylate | 0.35 g, 16% | CC1=C(C(=CC=C1)C)C1=NN2C(C=CC(=C2)C(=O)OC)=N1 | C16H15N3O2
